US09340549B2
(S)-2-(2-Amino-5-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)phenyl)pyridin-3-yl)pyrimidine-4-carbonitrile
2-Chloropyrimidine-4-carbonitrile (22.42 mg, 0.161 mmol), Na2CO3 (134 μL, 0.268 mmol), (S)-3-(4-(6-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (65 mg, 0.134 mmol), and dichloro(1,1-bis(diphenylphosphinoferrocene))palladium(II) (10.94 mg, 0.013 mmol) were combined in dioxane (268 μL) and stirred at 100° C. in a microwave oven for 1 hour. LC-MS indicated good conversion to desired product. After cooling to room temperature, the reaction mixture was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 0% to 10% MeOH in DCM, to provide (S)-2-(2-amino-5-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)phenyl)pyridin-3-yl)pyrimidine-4-carbonitrile as yellow solid. 1H NMR (500 MHz, DMSO-d6) δ 10.56 (s, 1H), 8.83 (d, J=4.70 Hz, 1H), 8.59 (d, J=2.67 Hz, 1H), 8.13 (d, J=8.44 Hz, 1H), 8.06 (dd, J=2.14, 6.30 Hz, 1H), 7.66 (d, J=8.66 Hz, 2H), 7.58 (d, J=8.87 Hz, 2H), 7.49 (d, J=4.49 Hz, 1H), 7.35-7.42 (m, 2H), 7.23-7.35 (m, 3H), 5.49 (s, 1H), 1.66 (s, 3H), 0.92 (s, 3H). m/z (ESI) 463.8 (M+H)+.

reactant | 2-Chloropyrimidine-4-carbonitrile | 0.161 mmol, 22.42 mg | ClC1=NC=CC(=N1)C#N | C5H2ClN3
reactant | Na2CO3 | 0.268 mmol, 134 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (S)-3-(4-(6-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.134 mmol, 65 mg | NC1=C(C=C(C=N1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C28H32BN3O4
solvent | dioxane | 268 μL | O1CCOCC1 | C4H8O2
product | (S)-2-(2-Amino-5-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)phenyl)pyridin-3-yl)pyrimidine-4-carbonitrile | NC1=NC=C(C=C1C1=NC=CC(=N1)C#N)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C27H22N6O2
